US07482375B2
Preparation 1: 4-(1-Acetyl-2-oxopropoxy)benzonitrile
A mixture of commercially available 3-chloro-2,4-pentanedione (14.01 ml, 92 mmol), 4-cyanophenol (10 g, 84 mmol), caesium carbonate (29.9 g, 92 mmol) and acetone (160 ml) was heated under reflux for 5 hours. After cooling, a solid was removed by filtration and it was washed with dichloromethane (100 ml). The combined filtrates were concentrated under reduced pressure. The remaining oil was diluted with dichloromethane (150 ml), washed with 1M hydrochloric acid (100 ml), then brine (50 ml), dried over magnesium sulphate, filtered and finally concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate (15:1, by volume then 10:1) to provide the title compound, which crystallised on standing, as pale yellow crystals (7.27 g, 39.6%).

reactant | 3-chloro-2,4-pentanedione | 92 mmol, 14.01 ml | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | 4-cyanophenol | 84 mmol, 10 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | caesium carbonate | 92 mmol, 29.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 160 ml | CC(=O)C | C3H6O
product | 4-(1-Acetyl-2-oxopropoxy)benzonitrile | C(C)(=O)C(C(C)=O)OC1=CC=C(C#N)C=C1 | C12H11NO3
